US08236823B2
To 2-chloronicotinaldehyde (381 mg, 2.69 mmol), 2-fluoro-5-hydroxybenzoic acid (300 mg, 1.92 mmol) and cesium carbonate (1.25 g, 3.84 mmol) was added DMSO (2.5 mL). The mixture was heated to 80° C. in a sealed tube for 3 hours. The cooled reaction was diluted with water and extracted with EtOAc. The aqueous layer was acidified with TFA (pH˜3) and extracted with EtOAc. This layer was dried over anhydrous sodium sulfate, filtered and concentrated. The residue was washed with Et2O dried to yield 2-fluoro-5-(3-formylpyridin-2-yloxy)benzoic acid as an off-white solid. MS m/z=262 [M+1]+. Calc'd for C13H8FNO4: 261.21.

reactant | 2-chloronicotinaldehyde | 2.69 mmol, 381 mg | ClC1=C(C=O)C=CC=N1 | C6H4ClNO
reactant | 2-fluoro-5-hydroxybenzoic acid | 1.92 mmol, 300 mg | FC1=C(C(=O)O)C=C(C=C1)O | C7H5FO3
reactant | cesium carbonate | 3.84 mmol, 1.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-fluoro-5-(3-formylpyridin-2-yloxy)benzoic acid | FC1=C(C(=O)O)C=C(C=C1)OC1=NC=CC=C1C=O | C13H8FNO4
